US08048894B2
Method 15. Preparation of 4-(5-Hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoic acid
Ethyl 8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-5-yl succinate. The title compound is prepared by acylation of 5-hydroxy-8-methyl-3-phenylpyrido[2,3-c]pyridazin-7(8H)-one with ethyl 4-chloro-4-oxobutanoate according to that described in Method 4 (step b).

reactant | Ethyl 8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-5-yl succinate | C(CCC(=O)OC1=CC(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O)(=O)OCC | C20H19N3O5
reactant | 5-hydroxy-8-methyl-3-phenylpyrido[2,3-c]pyridazin-7(8H)-one | OC1=CC(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O | C14H11N3O2
reactant | ethyl 4-chloro-4-oxobutanoate | ClC(CCC(=O)OCC)=O | C6H9ClO3
product | 4-(5-Hydroxy-8-methyl-7-oxo-3-phenyl-7,8-dihydropyrido[2,3-c]pyridazin-6-yl)-4-oxobutanoic acid | OC1=C(C(N(C=2N=NC(=CC21)C2=CC=CC=C2)C)=O)C(CCC(=O)O)=O | C18H15N3O5
